2117-04-17 05:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt maintained on CPAP/High flow nebs yesterday. Got up to chair with
   nurse [**First Name (Titles) **] [**Last Name (Titles) 12094**] to low  80s.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-4-16**] 10:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-4-17**] 05:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.1
   HR: 78 (60 - 91) bpm
   BP: 106/59(70) {96/46(59) - 141/101(106)} mmHg
   RR: 29 (16 - 35) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,287 mL
                                                                     51 mL
   PO:
                                                                    230 mL
             TF:
   IVF:
                                                                  1,057 mL
                                                                     51 mL
   Blood products:
   Total out:
                                                                  1,920 mL
                                                                    120 mL
   Urine:
                                                                  1,420 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    367 mL
                                                                    -69 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PPS
   Vt (Spontaneous): 747 (628 - 747) mL
   PS : 5 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 10 cmH2O
   SpO2: 94%
   ABG: 7.43/39/65/25/1
   Ve: 13.1 L/min
   PaO2 / FiO2: 93
   Physical Examination
   Gen: AOX3, NAD, tachypneic, BIPAP mask in place
   Cards: rrr, no m/r/g
   Resp: CTA anteriorly, tachypneic
   Abd: soft, nt/nd, +BS
   Ext: WWP no c/c/e
   Labs / Radiology
   293 K/uL
   14.1 g/dL
   143 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.8 mEq/L
   21 mg/dL
   104 mEq/L
   138 mEq/L
   43.7 %
   14.1 K/uL
        [image002.jpg]
                             [**2117-4-15**]  09:42 PM
                             [**2117-4-15**]  11:18 PM
                             [**2117-4-16**]  04:21 AM
                             [**2117-4-16**]  06:14 AM
                             [**2117-4-17**]  02:49 AM
   WBC
   5.8
   14.1
   Hct
   44.8
   43.7
   Plt
   290
   293
   Cr
   0.7
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   27
   27
   Glucose
   140
   143
   Other labs: PT / PTT / INR:12.0/33.7/1.0, CK / CKMB /
   Troponin-T:20/4/<0.01, Ca++:9.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   # Hypoxic respiratory failure: Unclear patient's baseline PO2 with
   range 68-130 in our system but Dr.[**Name (NI) 12068**] note from pulm clinic notes
   her O2 sat to be 96% on RA in [**Month (only) **]. Oxygenation improved on NRB.
   Negative d dimer makes PE unlikely. Recurrent aspiration seems like a
   likely possible trigger. Most likely a pneumonitis; pneumonia possible
   given WBC count but difficult to interpret in setting of steroids.
   - Continue Bipap 10/5 for now
   - On levofloxacin and azithromycin (for anti-inflammatory effect) for
   planned 5 day course
   - Add vancomycin for potential resistant organism given that
   respiratory status is not improving.
   - Continue Solumedrol 125 mg IV q6H
   - Nebs
   - Recheck ABG
   - Sputum cx NGTD
   - f/u blood cxs  NGTD
   - complete ROMI , ruled out for MI by cardiac enzymes
   .
   # Afib: Currently in sinus.
   - continue asa
   - monitor on telemetry
   - does not require rate controlling agents at home
   .
   # Dementia: continue home meds
   .
   FEN: NS 100, replete electrolytes, regular diet
   .
   Prophylaxis: Subcutaneous heparin
   .
   Access: peripherals
   .
   # CODE: DNR but not DNI, OK to intubate. Comes with Dnr/i form.
   .
   # CONTACT: [**First Name8 (NamePattern2) 3723**] [**Last Name (NamePattern1) 3255**] [**Telephone/Fax (1) 10690**] is sister and HCP though
   [**Name (NI) 1337**] note from [**2117-1-27**] references concerns about her competency.
   .
   Disposition: pending clinical improvement, will stay in ICU.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-4-16**] 04:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: MICU

2117-04-17 12:24:00 Physician Attending Progress Note
Chief Complaint: Aspiration pneumonia, respirtory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continues to desat intermittently and require intermittent NIPPV
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2117-4-16**] 08:32 PM
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-4-17**] 06:45 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-4-17**] 12:21 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.9
C (96.7
   HR: 72 (63 - 91) bpm
   BP: 112/74(82) {96/46(59) - 141/82(95)} mmHg
   RR: 27 (16 - 36) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,287 mL
                                                                    201 mL
   PO:
                                                                    230 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,057 mL
                                                                    101 mL
   Blood products:
   Total out:
                                                                  1,920 mL
                                                                    380 mL
   Urine:
                                                                  1,420 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    367 mL
                                                                   -179 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 84 (84 - 747) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 11 cmH2O
   SpO2: 91%
   ABG: ///25/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), distant HS
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   14.1 g/dL
   293 K/uL
   143 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.8 mEq/L
   21 mg/dL
   104 mEq/L
   138 mEq/L
   43.7 %
   14.1 K/uL
        [image002.jpg]
                             [**2117-4-15**]  09:42 PM
                             [**2117-4-15**]  11:18 PM
                             [**2117-4-16**]  04:21 AM
                             [**2117-4-16**]  06:14 AM
                             [**2117-4-17**]  02:49 AM
   WBC
   5.8
   14.1
   Hct
   44.8
   43.7
   Plt
   290
   293
   Cr
   0.7
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   27
   27
   Glucose
   140
   143
   Other labs: PT / PTT / INR:12.0/33.7/1.0, CK / CKMB /
   Troponin-T:20/4/<0.01, Ca++:9.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 HYPOXEMIA
 ALTERATION IN NUTRITION
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O PNEUMONIA, OTHER
   81yo F with h/o recurrent aspiration PNAs admitted with fever, cough,
   hypoxia.
   # Hypoxic respiratory failure: She has been very slow to improve and
   her CXR is not impressive.  She did have a neg d-dimer in ED with low
   pre-test probability -- so doubt PE.  Will cont steroids.  Will D/C
   azithro and add vanco to levoflox
   -Cont prn NIPPV
   -Will need to re-disuss code status.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-4-16**] 04:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2117-04-18 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Weaned O2 a little. Added vanco. Desaturated yesterday to low 80s
   briefly, placed on bipap 10/5 which did not help significantly. Placed
   on high flow mask with supplemental 6L NC (FiO2 ~ 95%) and improved.
   Talked to family including sister, [**Name (NI) 3723**] [**Name (NI) 3255**], who is HCP (confirmed
   by document in [**Name (NI) 1337**]) that she is DNR but OK to intubate. PEG tube okay.
   Echo ordered for tomorrow.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2117-4-17**] 10:09 PM
   Metronidazole - [**2117-4-18**] 12:16 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-4-17**] 02:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-4-18**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37
C (98.6
   Tcurrent: 35.6
C (96.1
   HR: 75 (59 - 75) bpm
   BP: 94/52(61) {94/45(57) - 143/82(108)} mmHg
   RR: 16 (12 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,384 mL
                                                                    730 mL
   PO:
                                                                    250 mL
             TF:
   IVF:
                                                                  1,134 mL
                                                                    730 mL
   Blood products:
   Total out:
                                                                    755 mL
                                                                    289 mL
   Urine:
                                                                    755 mL
                                                                    289 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    629 mL
                                                                    441 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 685 (84 - 685) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 95%
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ////
   Ve: 9.1 L/min
   Physical Examination
   Gen: AOX3, NAD, tachypneic, high flow mask in place
   Cards: RRR, no m/r/g
   Resp: coarse breath sounds but otherwise clear anteriorly
   Abd: soft, NT/ND, +BS
   Ext: WWP no c/c/e
   Labs / Radiology
   293 K/uL
   14.4g/dL
   143 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.8 mEq/L
   21 mg/dL
   104 mEq/L
   138 mEq/L
   44 %
   12.9              K/uL
        [image002.jpg]
   Vancomycin 16.7
                             [**2117-4-15**]  09:42 PM
                             [**2117-4-15**]  11:18 PM
                             [**2117-4-16**]  04:21 AM
                             [**2117-4-16**]  06:14 AM
                             [**2117-4-17**]  02:49 AM
   WBC
   5.8
   14.1
   Hct
   44.8
   43.7
   Plt
   290
   293
   Cr
   0.7
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   27
   27
   Glucose
   140
   143
   Other labs: PT / PTT / INR:12.0/33.7/1.0, CK / CKMB /
   Troponin-T:20/4/<0.01, Ca++:9.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
                                                                [**2117-4-16**]
                                                                    06:14a
   _______________________________________________________________________
                                     pH
                                    7.43
                                    pCO2
                                     39
                                     pO2
                                     65
                                    HCO3
                                     27
                                   BaseXS
                                      1
   Type:Art; Not Intubated; 97.4f Axillary; FiO2%:80; AADO2:474; Req:79;
   Temp:37.4
   Assessment and Plan
   81yo F with h/o recurrent aspiration PNAs admitted with fever, cough,
   hypoxia.
   # Hypoxic respiratory failure: Unclear patient's baseline PO2 with
   range 68-130 in our system but Dr.[**Name (NI) 12068**] note from pulm clinic notes
   her O2 sat to be 96% on RA in [**Month (only) **]. Oxygenation improved on NRB.
   Negative d dimer makes PE unlikely. Recurrent aspiration seems like a
   likely possible trigger. Most likely a pneumonitis; pneumonia possible
   given WBC count but difficult to interpret in setting of steroids.
   - Continue high flow mask
   - Continue levoflox for CAP and vanco for HAP
   - Will hold off on checking vanco trough given normal renal function,
   but will continue to trend creatinine and reassess as course
   progresses.
   - Continue Solumedrol 125 mg IV q6H. Today is day 2 of 3 before taper.
   - Continue Nebs
   # Lone Afib: Currently in sinus.
   - continue asa
   - monitor on telemetry
   # Dementia: continue home meds
   # FEN: No IVF, replete electrolytes, possible aspiration risk
   - Tolerates soft diet, continue with this
   - Hold off on speech and swallow evaluation
   - F/u re: PEG discussion
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals
   # CODE: DNR but not DNI, OK to intubate. Has DNR/DNI form.
   # CONTACT: [**First Name8 (NamePattern2) 3723**] [**Last Name (NamePattern1) 3255**] [**Telephone/Fax (1) 10690**] is sister and HCP though
   [**Name (NI) 1337**] note from [**2117-1-27**] references concerns about her competency.
   Disposition: pending clinical improvement, will stay in ICU.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-4-17**] 09:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2117-04-18 12:03:00 Physician Attending Progress Note
Chief Complaint: Hypoxemic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Feeling somewhat more evergetic this AM
   24 Hour Events:
   On BiPap this AM for 1 hr after transferring to chair
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2117-4-18**] 12:16 AM
   Vancomycin - [**2117-4-18**] 09:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-4-17**] 02:02 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: Tachypnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-4-18**] 12:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 66 (59 - 75) bpm
   BP: 123/70(82) {94/45(57) - 143/82(108)} mmHg
   RR: 27 (12 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.2 kg (admission): 50.6 kg
   Height: 67 Inch
             Total In:
                                                                  1,384 mL
                                                                    838 mL
   PO:
                                                                    250 mL
             TF:
   IVF:
                                                                  1,134 mL
                                                                    838 mL
   Blood products:
   Total out:
                                                                    755 mL
                                                                    739 mL
   Urine:
                                                                    755 mL
                                                                    739 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    629 mL
                                                                     99 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 603 (603 - 685) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 95%
   PIP: 9 cmH2O
   SpO2: 95%
   ABG: ///27/
   Ve: 16.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), distant
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   14.4 g/dL
   302 K/uL
   148 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.5 mEq/L
   23 mg/dL
   103 mEq/L
   137 mEq/L
   44.0 %
   12.9 K/uL
        [image002.jpg]
                             [**2117-4-15**]  09:42 PM
                             [**2117-4-15**]  11:18 PM
                             [**2117-4-16**]  04:21 AM
                             [**2117-4-16**]  06:14 AM
                             [**2117-4-17**]  02:49 AM
                             [**2117-4-18**]  06:40 AM
   WBC
   5.8
   14.1
   12.9
   Hct
   44.8
   43.7
   44.0
   Plt
   290
   293
   302
   Cr
   0.7
   0.7
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   27
   27
   Glucose
   140
   143
   148
   Other labs: PT / PTT / INR:11.4/29.3/0.9, CK / CKMB /
   Troponin-T:20/4/<0.01, ALT / AST:[**1-16**], Alk Phos / T Bili:111/0.3,
   Albumin:3.5 g/dL, LDH:227 IU/L, Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
 HYPOXEMIA
 ALTERATION IN NUTRITION
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O PNEUMONIA, OTHER
   81yo F with h/o recurrent aspiration PNAs admitted with fever, cough,
   hypoxia.
   # Hypoxic respiratory failure: Slow improvment.  Cont nebs, steroids,
   vanc/levo.  prn NIPPV
   Code staus reconfirmed by team with patient and HCP.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-4-17**] 09:46 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2117-04-19 07:19:00 Physician Resident Progress Note
24 Hour Events:
   [**2117-4-18**]
   Pt. generally did well throughout the day.  Had 1 desat to mid 80s
   while sitting up.  Was placed on BiPap for 1.5 hours and then
   transitioned back to face mask. Pt to go for Echo today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2117-4-18**] 12:16 AM
   Vancomycin - [**2117-4-18**] 07:39 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-4-19**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 36.7
C (98
   Tcurrent: 35.9
C (96.7
   HR: 59 (57 - 82) bpm
   BP: 140/71(88) {105/58(70) - 142/79(101)} mmHg
   RR: 20 (14 - 31) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.2 kg (admission): 50.6 kg
   Height: 67 Inch
             Total In:
                                                                  1,638 mL
                                                                    399 mL
   PO:
             TF:
   IVF:
                                                                  1,638 mL
                                                                    399 mL
   Blood products:
   Total out:
                                                                  1,404 mL
                                                                    210 mL
   Urine:
                                                                  1,404 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    234 mL
                                                                    189 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 598 (598 - 603) mL
   PS : 8 cmH2O
   RR (Spontaneous): 32
   PEEP: 8 cmH2O
   FiO2: 95%
   PIP: 16 cmH2O
   SpO2: 90%
   ABG: ///26/
   Ve: 13 L/min
   Physical Examination
   Labs / Radiology
   336 K/uL
   14.9 g/dL
   127 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.7 mEq/L
   23 mg/dL
   105 mEq/L
   137 mEq/L
   45.9 %
   13.0 K/uL
        [image002.jpg]
                             [**2117-4-15**]  09:42 PM
                             [**2117-4-15**]  11:18 PM
                             [**2117-4-16**]  04:21 AM
                             [**2117-4-16**]  06:14 AM
                             [**2117-4-17**]  02:49 AM
                             [**2117-4-18**]  06:40 AM
                             [**2117-4-19**]  05:18 AM
   WBC
   5.8
   14.1
   12.9
   13.0
   Hct
   44.8
   43.7
   44.0
   45.9
   Plt
   290
   293
   302
   336
   Cr
   0.7
   0.7
   0.7
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   27
   27
   Glucose
   140
   143
   148
   127
   Other labs: PT / PTT / INR:11.4/29.3/0.9, CK / CKMB /
   Troponin-T:20/4/<0.01, ALT / AST:[**1-16**], Alk Phos / T Bili:111/0.3,
   Albumin:3.5 g/dL, LDH:227 IU/L, Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   81yo F with h/o recurrent aspiration PNAs admitted with fever, cough,
   hypoxia.
   # Hypoxic respiratory failure: Unclear patient's baseline PO2 with
   range 68-130 in our system but Dr.[**Name (NI) 12068**] note from pulm clinic notes
   her O2 sat to be 96% on RA in [**Month (only) **]. Oxygenation improved on NRB.
   Negative d dimer makes PE unlikely. Recurrent aspiration seems like a
   likely possible trigger. Most likely a pneumonitis; pneumonia possible
   given WBC count but difficult to interpret in setting of steroids.
   - Continue high flow mask
   - Continue levoflox for CAP and vanco for HAP
   - Will hold off on checking vanco trough given normal renal function,
   but will continue to trend creatinine and reassess as course
   progresses.
   - Continue Solumedrol 125 mg IV q6H. Today is day 3 of 3 before taper.
   - Continue Nebs
   - Consider intracardiac
   - F/u TTE read; will consider bubble study if greater concern for
   pulmonary shunt.
   # Lone Afib: Currently in sinus.
   - continue asa
   - monitor on telemetry
   - F/u echo read
   # Dementia: continue home meds
   # FEN: No IVF, replete electrolytes, possible aspiration risk
   - Continue soft diet
   - Hold off on speech and swallow evaluation
   - F/u re: PEG discussion
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals
   # CODE: DNR but not DNI, OK to intubate. Has DNR/DNI form.
   # CONTACT: [**First Name8 (NamePattern2) 3723**] [**Last Name (NamePattern1) 3255**] [**Telephone/Fax (1) 10690**] is sister and HCP though
   [**Name (NI) 1337**] note from [**2117-1-27**] references concerns about her competency.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-4-18**] 10:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2117-04-19 11:52:00 Physician Attending Progress Note
Chief Complaint: Hypoxemic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Not feeling SOB at the moment
   24 Hour Events:
   Has not required NIPPV over the last day
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2117-4-18**] 12:16 AM
   Vancomycin - [**2117-4-19**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-4-19**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.1
   HR: 58 (57 - 73) bpm
   BP: 112/64(76) {105/58(70) - 154/86(102)} mmHg
   RR: 19 (13 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 52.2 kg (admission): 50.6 kg
   Height: 67 Inch
             Total In:
                                                                  1,638 mL
                                                                    599 mL
   PO:
             TF:
   IVF:
                                                                  1,638 mL
                                                                    599 mL
   Blood products:
   Total out:
                                                                  1,404 mL
                                                                    460 mL
   Urine:
                                                                  1,404 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    234 mL
                                                                    139 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 598 (598 - 598) mL
   PS : 8 cmH2O
   RR (Spontaneous): 32
   PEEP: 8 cmH2O
   FiO2: 95%
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: ///26/
   Ve: 13 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   14.9 g/dL
   336 K/uL
   127 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.7 mEq/L
   23 mg/dL
   105 mEq/L
   137 mEq/L
   45.9 %
   13.0 K/uL
        [image002.jpg]
                             [**2117-4-15**]  09:42 PM
                             [**2117-4-15**]  11:18 PM
                             [**2117-4-16**]  04:21 AM
                             [**2117-4-16**]  06:14 AM
                             [**2117-4-17**]  02:49 AM
                             [**2117-4-18**]  06:40 AM
                             [**2117-4-19**]  05:18 AM
   WBC
   5.8
   14.1
   12.9
   13.0
   Hct
   44.8
   43.7
   44.0
   45.9
   Plt
   290
   293
   302
   336
   Cr
   0.7
   0.7
   0.7
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   27
   27
   Glucose
   140
   143
   148
   127
   Other labs: PT / PTT / INR:11.4/29.3/0.9, CK / CKMB /
   Troponin-T:20/4/<0.01, ALT / AST:[**1-16**], Alk Phos / T Bili:111/0.3,
   Albumin:3.5 g/dL, LDH:227 IU/L, Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
 HYPOXEMIA
 ALTERATION IN NUTRITION
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O PNEUMONIA, OTHER
   81yo F with h/o recurrent aspiration PNAs admitted with fever, cough,
   hypoxia.
   # Hypoxic respiratory failure: Continues to have slow improvement
   though did not require NIPPV overnight.  Cont nebs, steroids,
   vanc/levo.
   -TTE done, read pending
   -Continues to have orthodeoxia - ?shunt physiology, may do bubble study
   if this persists but not necessary at this time
   Code staus reconfirmed by team with patient and HCP.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-4-18**] 10:25 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2117-04-20 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - showed moderate pulmonary hypertension (PASP +
   RA = 50-60mmHg), 2+ TR, and ASD with L to R shunt at rest
   - Continues to desaturate to the mid-80s when sitting up to take pills
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2117-4-18**] 12:16 AM
   Levofloxacin - [**2117-4-19**] 04:00 PM
   Vancomycin - [**2117-4-19**] 08:21 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-4-20**] 06:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-4-20**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 55 (55 - 66) bpm
   BP: 134/74(86) {109/61(73) - 154/97(102)} mmHg
   RR: 16 (13 - 30) insp/min
   SpO2: 90% on high flow
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 52.2 kg (admission): 50.6 kg
   Height: 67 Inch
             Total In:
                                                                    984 mL
                                                                     68 mL
   PO:
                                                                     15 mL
             TF:
   IVF:
                                                                    969 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                    875 mL
                                                                    270 mL
   Urine:
                                                                    875 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    109 mL
                                                                   -202 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 90%
   ABG: ///26/
   Physical Examination
   Gen: NAD, lying in bed
   Pulm:  clear anteriorly, poor inspiratory effort, no wheezes/rhonchi,
   breath sounds symmetric
   CV:  RRR, no m/c/r, heart sounds somewhat distant
   Abd: soft, NT/ND
   Ext: pulses 2+, no edema
   Neuro: A&Ox3
   Labs / Radiology
   314 K/uL
   15.2 g/dL
   127 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.7 mEq/L
   27 mg/dL
   104 mEq/L
   137 mEq/L
   45.8 %
   9.6 K/uL
        [image002.jpg]
                             [**2117-4-15**]  09:42 PM
                             [**2117-4-15**]  11:18 PM
                             [**2117-4-16**]  04:21 AM
                             [**2117-4-16**]  06:14 AM
                             [**2117-4-17**]  02:49 AM
                             [**2117-4-18**]  06:40 AM
                             [**2117-4-19**]  05:18 AM
                             [**2117-4-20**]  03:56 AM
   WBC
   5.8
   14.1
   12.9
   13.0
   9.6
   Hct
   44.8
   43.7
   44.0
   45.9
   45.8
   Plt
   290
   293
   302
   336
   314
   Cr
   0.7
   0.7
   0.7
   0.6
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   27
   27
   Glucose
   140
   143
   148
   127
   127
   Other labs: PT / PTT / INR:11.5/55.2/1.0, CK / CKMB /
   Troponin-T:20/4/<0.01, ALT / AST:23/25, Alk Phos / T Bili:103/0.5,
   Albumin:3.4 g/dL, LDH:192 IU/L, Ca++:9.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   81yo F with h/o recurrent aspiration PNAs admitted with fever, cough,
   hypoxia.
   # Hypoxic respiratory failure: Unclear patient's baseline PO2 with
   range 68-130 in our system but Dr.[**Name (NI) 12068**] note from pulm clinic notes
   her O2 sat to be 96% on RA in [**Month (only) **]. Oxygenation improved on NRB.
   Negative d dimer makes PE unlikely. Recurrent aspiration seems like a
   likely possible trigger. Most likely a pneumonitis; pneumonia possible
   given WBC count but difficult to interpret in setting of steroids.
   Hypoxia may be secondary to pulmonary hypertension cardiogenic sources
   (shunt) given echo findings.
   CXR concerning for PTX on the right, however reviewed by radiology
   again and they do not feel she has a PTX on today
s film.
   - Continue high flow mask
   - DC levofloxacin and add on cefepime to broadly cover for HAP
   - Continue vanco for HAP ([**2117-4-17**]) was Day 1, today is day 4
   - Vanco level 21.8 this AM; plan to hold off on checking vanco trough
   given normal renal function, but will continue to trend creatinine and
   reassess as course progresses.
   - Switch to PO prednisone taper today (has received 3/3 days of IV
   solumedrol)
   - Continue Nebs
   - TTE showed moderate pulmonary hypertension (PASP + RA pressure
   50-60mmHg), 2+ TR, and ASD with L to R shunt at rest. - will order
   bubble study to evaluate for reversal of shunt flow with activity.
   # FEN: No IVF, replete electrolytes, possible aspiration risk
   - Continue soft diet
   - Per nutrition recs, start Fibersource HN at 10ml/hr, advance by 10ml
   q4h for goal of 45ml/hr for 24 hours. Q4 residual checks and hold tube
   feeds for >200ml residuals. HOB > 30
   - BUN:cre ratio increasing and patient's PO intake still poor. Will
   consider some administration of fluids (patient has preserved EF of
   55%)
   - Hold off on speech and swallow evaluation
   - F/u re: PEG discussion
   # Lone Afib: Currently in sinus.
   - continue asa
   - monitor on telemetry
   - F/u echo read
   # Dementia: continue home meds
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals
   # CODE: DNR but not DNI, OK to intubate. Has DNR/DNI form.
   # CONTACT: [**First Name8 (NamePattern2) 3723**] [**Last Name (NamePattern1) 3255**] [**Telephone/Fax (1) 10690**] is sister and HCP though
   [**Name (NI) 1337**] note from [**2117-1-27**] references concerns about her competency.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-4-19**] 08:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2117-04-20 10:51:00 Physician Attending Progress Note
Chief Complaint: Hypoxemic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Remains very hypoxemic with sats of 90% on 80% high flow
   Still short of breath but no p[leuritic chest pain
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2117-4-19**] 10:45 AM
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2117-4-18**] 12:16 AM
   Levofloxacin - [**2117-4-19**] 04:00 PM
   Vancomycin - [**2117-4-19**] 08:21 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-4-20**] 06:12 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: Dyspnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-4-20**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.3
C (95.6
   HR: 63 (55 - 66) bpm
   BP: 135/77(89) {109/61(73) - 154/97(101)} mmHg
   RR: 29 (13 - 29) insp/min
   SpO2: 86%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 52.2 kg (admission): 50.6 kg
   Height: 67 Inch
             Total In:
                                                                    984 mL
                                                                    105 mL
   PO:
                                                                     15 mL
             TF:
   IVF:
                                                                    969 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                    875 mL
                                                                    400 mL
   Urine:
                                                                    875 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    109 mL
                                                                   -295 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 86%
   ABG: ///26/
   Physical Examination
   General Appearance: mild resp distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), distant
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: throughout but BS equal)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   15.2 g/dL
   314 K/uL
   127 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.7 mEq/L
   27 mg/dL
   104 mEq/L
   137 mEq/L
   45.8 %
   9.6 K/uL
        [image002.jpg]
                             [**2117-4-15**]  09:42 PM
                             [**2117-4-15**]  11:18 PM
                             [**2117-4-16**]  04:21 AM
                             [**2117-4-16**]  06:14 AM
                             [**2117-4-17**]  02:49 AM
                             [**2117-4-18**]  06:40 AM
                             [**2117-4-19**]  05:18 AM
                             [**2117-4-20**]  03:56 AM
   WBC
   5.8
   14.1
   12.9
   13.0
   9.6
   Hct
   44.8
   43.7
   44.0
   45.9
   45.8
   Plt
   290
   293
   302
   336
   314
   Cr
   0.7
   0.7
   0.7
   0.6
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   27
   27
   Glucose
   140
   143
   148
   127
   127
   Other labs: PT / PTT / INR:11.5/55.2/1.0, CK / CKMB /
   Troponin-T:20/4/<0.01, ALT / AST:23/25, Alk Phos / T Bili:103/0.5,
   Albumin:3.4 g/dL, LDH:192 IU/L, Ca++:9.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.1
   mg/dL
   Imaging: CXR: ? R PNTX
   Assessment and Plan
 HYPOXEMIA
 ALTERATION IN NUTRITION
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O PNEUMONIA, OTHER
   81yo F with h/o recurrent aspiration PNAs admitted with fever, cough,
   hypoxia.  TTE shows small ASD and pulmonary hypertension.
   # Hypoxic respiratory failure: Continues to be profoundly hypoxemic -
   will pursue bubble study to eval for shunt.  On steroids.  Cont vanc
   but will change levo to cefepime.  Will confirm PNTX with radiology -
   will ask IP to place pntx tube if there is indeed a pntx
   Concerning that she is not improving with our current interventions.
   Will empirically start heparin gtt after possible pntx tube placement
   despite neg d-dimer on admission.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-4-19**] 08:39 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2117-04-21 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Continued to be hypoxic to O2 sats of 88-92
   - Bubble study showed ASD, not enough of a shunt to explain hypoxia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2117-4-19**] 04:00 PM
   Cefipime - [**2117-4-20**] 12:00 PM
   Vancomycin - [**2117-4-20**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-4-21**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 65 (55 - 75) bpm
   BP: 136/78(88) {119/61(77) - 154/86(96)} mmHg
   RR: 21 (13 - 34) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.2 kg (admission): 50.6 kg
   Height: 67 Inch
             Total In:
                                                                  1,578 mL
                                                                    625 mL
   PO:
             TF:
   IVF:
                                                                  1,578 mL
                                                                    625 mL
   Blood products:
   Total out:
                                                                    830 mL
                                                                    170 mL
   Urine:
                                                                    830 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    748 mL
                                                                    455 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 88%
   ABG: 7.43/39/49/25/1
   PaO2 / FiO2: 61
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   363 K/uL
   15.6 g/dL
   171 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.5 mEq/L
   29 mg/dL
   104 mEq/L
   136 mEq/L
   46.4 %
   9.8 K/uL
        [image002.jpg]
   ALT 28, AST 29, AP 98, Tbilie 0.8, LDH 169
   Alb 3.2
 3.4
                             [**2117-4-15**]  11:18 PM
                             [**2117-4-16**]  04:21 AM
                             [**2117-4-16**]  06:14 AM
                             [**2117-4-17**]  02:49 AM
                             [**2117-4-18**]  06:40 AM
                             [**2117-4-19**]  05:18 AM
                             [**2117-4-20**]  03:56 AM
                             [**2117-4-20**]  07:58 PM
                             [**2117-4-20**]  08:13 PM
                             [**2117-4-21**]  04:23 AM
   WBC
   5.8
   14.1
   12.9
   13.0
   9.6
   9.8
   Hct
   44.8
   43.7
   44.0
   45.9
   45.8
   46.4
   Plt
   290
   293
   302
   [**Telephone/Fax (3) 12163**]
   Cr
   0.7
   0.7
   0.7
   0.6
   0.6
   0.7
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   27
   27
   Glucose
   140
   143
   148
   127
   127
   133
   171
   Other labs: PT / PTT / INR:11.7/32.5/1.0, CK / CKMB /
   Troponin-T:20/4/<0.01, ALT / AST:28/29, Alk Phos / T Bili:98/0.8,
   Lactic Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:169 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   81yo F with h/o recurrent aspiration PNAs admitted with fever, cough,
   hypoxia.
   # Hypoxic respiratory failure: Worsening, maintaining O2 sats in 88-92
   range. Oxygenation improved on NRB. Negative d dimer makes PE unlikely.
   Recurrent aspiration seems like a likely possible trigger. Most likely
   a pneumonitis; pneumonia possible given WBC count but difficult to
   interpret in setting of steroids. CXR concerning for PTX on the right,
   however reviewed by radiology again and they do not feel she has a PTX
   on today
s film. TTE showed moderate pulmonary hypertension (PASP + RA
   pressure 50-60mmHg), 2+ TR, and ASD with L to R shunt at rest. - will
   order bubble study to evaluate for reversal of shunt flow with
   activity. Hypoxia may be secondary to pulmonary hypertension
   cardiogenic sources (shunt) given echo findings.  Bubble study showed
   ASD, not significant to explain hypoxia. Also may consider pulmonary
   hypertension, although degree of pulmonary hypertension noted on echo
   (PASP + RA = 50-60mmHg) may not be significant enough to explain
   significant hypoxemia.
   - Continue high flow mask, increase O2 or change to BiPAP if necessary
   - Discuss with family today possibiltiy of intubation
   - Abx: On vanc (day 1 [**2117-4-17**]) and cefepime (day 1 [**4-20**]), s/p 5 days of
   levofloxacin
   - Attempy switch to PO prednisone taper today, although  (has received
   4 days of IV solumedrol)
   - Continue empiric lovenox treatment for PE
   - Continue Nebs
   - F/u final read on bubble study
   - If not improving, may consider empiric treatment for pulmonary
   hypertension with sildenafil drip.
   # Nutrition: Albumin steadily downtrending (3.4 --> 3.2 today) and
   patient continuing to take poor PO.
   - Continue soft diet as attempted
   - Family discussion today: re PEG
   - Consider dobhoff attempt, although may be difficult given hypoxia.
   - Per nutrition recs, start Fibersource HN at 10ml/hr, advance by 10ml
   q4h for goal of 45ml/hr for 24 hours. Q4 residual checks and hold tube
   feeds for >200ml residuals. HOB > 30
   - Hold off on speech and swallow evaluation given hypoxia
   # Lone Afib: Currently in sinus.
   - continue asa
   - monitor on telemetry
   # Dementia: continue home meds
   # Prophylaxis: lovenox
   # Access: peripherals
   # CODE: DNR but not DNI, OK to intubate. Has DNR/DNI form.
   # CONTACT: [**First Name8 (NamePattern2) 3723**] [**Last Name (NamePattern1) 3255**] [**Telephone/Fax (1) 10690**] is sister and HCP; [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2728**] is
   friend and very involved, family meeting today to consider
   - Family meeting this PM
   # DISPO: in ICU

2117-04-21 10:08:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No complaints this AM
   24 Hour Events:
   Bubble study yesterday did not reveal a large R to L shunt
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2117-4-19**] 04:00 PM
   Cefipime - [**2117-4-20**] 12:00 PM
   Vancomycin - [**2117-4-21**] 08:20 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Nutritional Support: NPO
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-4-21**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 36.7
C (98
   Tcurrent: 35.7
C (96.3
   HR: 63 (55 - 75) bpm
   BP: 129/67(80) {119/61(77) - 153/86(96)} mmHg
   RR: 19 (12 - 34) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.2 kg (admission): 50.6 kg
   Height: 67 Inch
             Total In:
                                                                  1,578 mL
                                                                  1,083 mL
   PO:
             TF:
   IVF:
                                                                  1,578 mL
                                                                  1,083 mL
   Blood products:
   Total out:
                                                                    830 mL
                                                                    290 mL
   Urine:
                                                                    830 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    748 mL
                                                                    793 mL
   Respiratory support
   O2 Delivery Device: Venti mask , High flow neb
   SpO2: 90%
   ABG: 7.43/39/49/25/1
   PaO2 / FiO2: 61
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: ), end inspiratory squeaks L > R
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, cohnversive
   Labs / Radiology
   15.6 g/dL
   363 K/uL
   171 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.5 mEq/L
   29 mg/dL
   104 mEq/L
   136 mEq/L
   46.4 %
   9.8 K/uL
        [image002.jpg]
                             [**2117-4-15**]  11:18 PM
                             [**2117-4-16**]  04:21 AM
                             [**2117-4-16**]  06:14 AM
                             [**2117-4-17**]  02:49 AM
                             [**2117-4-18**]  06:40 AM
                             [**2117-4-19**]  05:18 AM
                             [**2117-4-20**]  03:56 AM
                             [**2117-4-20**]  07:58 PM
                             [**2117-4-20**]  08:13 PM
                             [**2117-4-21**]  04:23 AM
   WBC
   5.8
   14.1
   12.9
   13.0
   9.6
   9.8
   Hct
   44.8
   43.7
   44.0
   45.9
   45.8
   46.4
   Plt
   290
   293
   302
   [**Telephone/Fax (3) 12163**]
   Cr
   0.7
   0.7
   0.7
   0.6
   0.6
   0.7
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   27
   27
   Glucose
   140
   143
   148
   127
   127
   133
   171
   Other labs: PT / PTT / INR:11.7/32.5/1.0, CK / CKMB /
   Troponin-T:20/4/<0.01, ALT / AST:28/29, Alk Phos / T Bili:98/0.8,
   Lactic Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:169 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 HYPOXEMIA
 ALTERATION IN NUTRITION
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O PNEUMONIA, OTHER
   81yo F with h/o recurrent aspiration PNAs admitted with fever, cough,
   hypoxia.  She has been presistently hypoxemic despite ongoing steroids
   and antibiotics
   # Hypoxemic respiratory failure: Given that her sats are in low 90s
   without desat sitting up on rounds, we will send her for a CTA to
   assess parenchyma and assess for PE.  Treating with Lovenox empirically
   for rime being.  Cont iv steroids - will start to taper.  No PNTX on
   re-exam of CXR.  Cont vanc/cefepime
   Nutrition: Will place PICC and start TPN.
   Will try to meet with sister and friend who are assisting as HCPs today
   Remainder of issues per ICU team.
   ICU Care
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-4-19**] 08:39 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2117-04-22 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Family meeting held, discussed issue of intubation and unlikelihood
   of extubation if placed on mechanical ventilation. No decision-making
   but patient and family still processing prognosis. Patient and family
   receptive to PEG tube placement but acknowledge she is not well enough
   for procedure at present.
   - CTA (prelim read)--showed impacted LLL bronchi with partial collapse
   of LLL but cannot exclude superimposed infection. Right bibasilar
   atelectasis, dilated and partially fluid-filled esophagus.
   - Now on coughilator TID, not coughing or producing sputum per patient.
   - Got Picc line placed overnight; wet read of follow-up CXR said
   difficult to assess termination point and recommended pulling back tip
   4cm for better visualization, which was done by IV team but no
   follow-up imaging.
   - O2 sats improved overnight (92-99%)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2117-4-19**] 04:00 PM
   Cefipime - [**2117-4-21**] 12:26 PM
   Vancomycin - [**2117-4-21**] 08:30 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2117-4-22**] 04:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-4-22**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 74 (60 - 81) bpm
   BP: 115/68(94) {109/57(71) - 147/82(97)} mmHg
   RR: 17 (12 - 28) insp/min
   SpO2: 99% on 95% face mask
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.2 kg (admission): 50.6 kg
   Height: 67 Inch
             Total In:
                                                                  2,419 mL
                                                                      1 mL
   PO:
             TF:
   IVF:
                                                                  2,419 mL
                                                                      1 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                    550 mL
   Urine:
                                                                  1,300 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,119 mL
                                                                   -549 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   General: sleeping but answering questions appropriately
   CV: RRR, no m/r/g. Splitting of S2 on inspiration and expiration
   Lungs: Anteriorly, coarse breath sounds at left base. Clear on right
   Abdomen: soft, nontender, nondistended, + bowel sounds
   Extremtities: warm and well perfused. 2+ DP pulses bilaterally.
   Labs / Radiology
   287 K/uL
   14.9 g/dL
   98 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.5 mEq/L
   20 mg/dL
   102 mEq/L
   136 mEq/L
   44.1 %
   10.9 K/uL
        [image002.jpg]
                             [**2117-4-16**]  04:21 AM
                             [**2117-4-16**]  06:14 AM
                             [**2117-4-17**]  02:49 AM
                             [**2117-4-18**]  06:40 AM
                             [**2117-4-19**]  05:18 AM
                             [**2117-4-20**]  03:56 AM
                             [**2117-4-20**]  07:58 PM
                             [**2117-4-20**]  08:13 PM
                             [**2117-4-21**]  04:23 AM
                             [**2117-4-22**]  03:52 AM
   WBC
   5.8
   14.1
   12.9
   13.0
   9.6
   9.8
   10.9
   Hct
   44.8
   43.7
   44.0
   45.9
   45.8
   46.4
   44.1
   Plt
   290
   293
   302
   [**Telephone/Fax (3) 12163**]
   287
   Cr
   0.7
   0.7
   0.7
   0.6
   0.6
   0.7
   0.6
   0.6
   TropT
   <0.01
   TCO2
   27
   27
   Glucose
   140
   143
   148
   127
   127
   133
   171
   98
   Other labs: PT / PTT / INR:11.7/33.8/1.0, CK / CKMB /
   Troponin-T:20/4/<0.01, ALT / AST:28/29, Alk Phos / T Bili:98/0.8,
   Lactic Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:169 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Micro:
   Final blood cultures negative
   Assessment and Plan
   81yo F with h/o recurrent aspiration PNAs admitted with fever, cough,
   hypoxia.
   # Hypoxic respiratory failure: CT revealed impacted portions of left
   lower lobe with distal collapse, consistent with plugging and perhaps
   overlying infection. [**Month (only) 8**] be most likely cause for patient's hypoxia.
   Responding well to coughilator, maintained O2 sats 92-99% since 10pm
   last night. Superimposed infectious component likely. PE unlikely given
   wet read of CT. Cardiogenic etiology unlikely, as even though patient
   has ASD with L to R shunting, it is not large enough to explain
   hypoxia. Pulmonary hypertension may be contributing, however difficulty
   to interpret severity of pulmonary hypertension noted on echo in
   setting of hypoxia from pulmonary disease.
   - Continue high flow mask, increase O2 or change to BiPAP if necessary
   - F/u final CT read
   - Continue coughilator TID and chest PT to mobilize secretions from
   left lower lobe.
   - If producing secretions with coughilator, send respiratory culture
   and if positive can tailor antibiotics
   - Abx: On vanc (day 1 [**2117-4-17**]) and cefepime (day 1 [**4-20**]), s/p 5 days of
   levofloxacin
   - Patient is NPO; will stay on IV steroids today is day 2 of solumedrol
   60mg IV q8h
   - Continue Nebs
   - Pending final read of CT, will d/c lovenox (concern from tech that
   there were PEs, although wet read negative for PE).
   # Nutrition: Albumin steadily downtrending (3.2) and patient NPO
   - Patient too sick at present to tolerate PEG placement; NG or dobhoff
   placement difficult in light of hypoxia
   - PICC placement with goal of TPN.
   - Nutrition left recommendations, will continue to leave recs in POE
   when patient is ready.
          Will provide daily TPN recommendations in POE- Once PICC
   placed
          Start w/ Day 1 TPN- 1L(150 dextrose/ 70 gr protein) 800
   kcals and will advance pending glycemic control 1250mL(220 dextrose/65
   gr protein/30 fat) to provide 1308 kcals
          Continue RISS as ordered
          Please check trig
          ppft in IR vs PEG when medical stable enough
   - Repeat CXR to confirm Picc line tip in SVC before starting TPN
   - Check triglycerides
   - If continues to improve with coughilator and chest PT, may be able to
   revisit Dobhoff/NG tube placement later in today or tomorrow.
   # Lone Afib: Currently in sinus.
   - continue asa
   - monitor on telemetry
   # Osteoporosis--stable
   - On calcium carbonate/vitamin D
   - Holding home alendronate in setting of esophageal dysmotility/chronic
   aspiration.
   # Dementia: continue home meds
   # Prophylaxis:
   - Will d/c lovenox if final PE CT negative
   - Re-start heparin
   - Pneumoboots
   # Access: Picc line
   # CODE: DNR but not DNI, OK to intubate. Has DNR/DNI form.
   # CONTACT: [**First Name8 (NamePattern2) 3723**] [**Last Name (NamePattern1) 3255**] [**Telephone/Fax (1) 10690**] is sister and HCP; [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2728**] is
   friend and very involved
   - Update family today
   # DISPO: in ICU

2117-04-22 10:33:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia, LLL collapse/pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pt feeling better today after use of cough/assist
   24 Hour Events:
 PICC LINE - START [**2117-4-21**] 10:43 PM
   CTA chest yestrday showed no PE, but did show LLL collapse with
   secretions in LLL bronchus.
   Sats improved after use of cough/assist
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2117-4-19**] 04:00 PM
   Cefipime - [**2117-4-21**] 12:26 PM
   Vancomycin - [**2117-4-22**] 08:10 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2117-4-22**] 04:18 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-4-22**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.7
C (96.3
   HR: 73 (60 - 81) bpm
   BP: 120/72(84) {109/57(71) - 147/82(97)} mmHg
   RR: 22 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.2 kg (admission): 50.6 kg
   Height: 67 Inch
             Total In:
                                                                  2,419 mL
                                                                    272 mL
   PO:
             TF:
   IVF:
                                                                  2,419 mL
                                                                    272 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                    900 mL
   Urine:
                                                                  1,300 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,119 mL
                                                                   -629 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress, tired appearing
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   14.9 g/dL
   287 K/uL
   98 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.5 mEq/L
   20 mg/dL
   102 mEq/L
   136 mEq/L
   44.1 %
   10.9 K/uL
        [image002.jpg]
                             [**2117-4-16**]  04:21 AM
                             [**2117-4-16**]  06:14 AM
                             [**2117-4-17**]  02:49 AM
                             [**2117-4-18**]  06:40 AM
                             [**2117-4-19**]  05:18 AM
                             [**2117-4-20**]  03:56 AM
                             [**2117-4-20**]  07:58 PM
                             [**2117-4-20**]  08:13 PM
                             [**2117-4-21**]  04:23 AM
                             [**2117-4-22**]  03:52 AM
   WBC
   5.8
   14.1
   12.9
   13.0
   9.6
   9.8
   10.9
   Hct
   44.8
   43.7
   44.0
   45.9
   45.8
   46.4
   44.1
   Plt
   290
   293
   302
   [**Telephone/Fax (3) 12163**]
   287
   Cr
   0.7
   0.7
   0.7
   0.6
   0.6
   0.7
   0.6
   0.6
   TropT
   <0.01
   TCO2
   27
   27
   Glucose
   140
   143
   148
   127
   127
   133
   171
   98
   Other labs: PT / PTT / INR:11.7/33.8/1.0, CK / CKMB /
   Troponin-T:20/4/<0.01, ALT / AST:28/29, Alk Phos / T Bili:98/0.8,
   Lactic Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:169 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 HYPOXEMIA
 ALTERATION IN NUTRITION
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O PNEUMONIA, OTHER
   81yo F with h/o recurrent aspiration PNAs admitted with fever, cough,
   hypoxia.  She has been presistently hypoxemic despite ongoing steroids
   and antibiotics - CT yesterday gives some rational explanation for
   ongoing hypoxemia.  She has a LLL collapse with likely shunt physiology
   in setting poor cough/poor clearance of secretions.
   # Hypoxemic respiratory failure: Cont vanc/cefepime and focus efforts
   at mucous clearance.  Cough/assist, chest PT.  Taper steroids.  D/C
   LMWH.
   Nutrition: PICC placed and will initiate TPN today
   Will continue ongoing discussions with sister [**Doctor First Name 3723**] and friend
   [**Doctor First Name **] given new findings.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2117-4-21**] 10:42 PM
   PICC Line - [**2117-4-21**] 10:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2117-04-23 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Hemodynamically stable. O2 sats in mid 90s, FIO2 weaned to 60%.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2117-4-22**] 12:20 PM
   Vancomycin - [**2117-4-22**] 08:12 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-4-23**] 12:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-4-23**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.8
   HR: 64 (58 - 85) bpm
   BP: 107/62(73) {103/56(68) - 130/76(87)} mmHg
   RR: 15 (13 - 28) insp/min
   SpO2: 93% on 40%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52 kg (admission): 50.6 kg
   Height: 67 Inch
                  Total In:
                                                                    981 mL
                                                                    277 mL
   PO:
                  TF:
   IVF:
                                                                    689 mL
   Blood products:
   Total out:
                                                                  2,095 mL
                                                                    780 mL
   Urine:
                                                                  2,095 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,114 mL
                                                                   -503 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: ///29/
   Physical Examination
   Gen: Alert, awake
   CV: RRR, no m/r/g
   Lungs: Clear to auscultation anteriorly
   Abdomen: soft, nontender, nondistended, + BS
   Extremities: WWP, 2+ DP pulses bilaterally
   Labs / Radiology
   306 K/uL
   14.8 g/dL
   134 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.2 mEq/L
   23 mg/dL
   103 mEq/L
   136 mEq/L
   45.7 %
   11.9 K/uL
        [image002.jpg]
   PT 11.8, PTT 29.9, INR 1.0
                             [**2117-4-16**]  06:14 AM
                             [**2117-4-17**]  02:49 AM
                             [**2117-4-18**]  06:40 AM
                             [**2117-4-19**]  05:18 AM
                             [**2117-4-20**]  03:56 AM
                             [**2117-4-20**]  07:58 PM
                             [**2117-4-20**]  08:13 PM
                             [**2117-4-21**]  04:23 AM
                             [**2117-4-22**]  03:52 AM
                             [**2117-4-23**]  02:04 AM
   WBC
   14.1
   12.9
   13.0
   9.6
   9.8
   10.9
   11.9
   Hct
   43.7
   44.0
   45.9
   45.8
   46.4
   44.1
   45.7
   Plt
   293
   302
   336
   [**Telephone/Fax (3) 12197**]
   306
   Cr
   0.7
   0.7
   0.6
   0.6
   0.7
   0.6
   0.6
   0.5
   TCO2
   27
   27
   Glucose
   143
   148
   127
   127
   133
   171
   98
   134
   Other labs: PT / PTT / INR:11.8/29.9/1.0, CK / CKMB /
   Troponin-T:20/4/<0.01, ALT / AST:28/29, Alk Phos / T Bili:98/0.8,
   Lactic Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:169 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Chest CT Read (final)
   1. No pulmonary embolism or acute aortic pathology.
   2. Fluid-filled lower lobe bronchi, compatible with recent aspiration.
   Partial LLL collapse. Mild right basilar atelectasis. Bilateral lower
   lobe
   tree-in-[**Male First Name (un) 2717**] appearance, suggestive of multifocal pneumonia.
   3. Diffusely dilated esophagus with air-fluid level, increasing the
   patient's
   risk of aspiration.
   Assessment and Plan
   81yo F with h/o recurrent aspiration PNAs admitted with fever, cough,
   hypoxia, found on chest CT to have mucous plugging and partial collapse
   of left lower lobe with multifocal pneumonia.
   # Hypoxic respiratory failure: Significantly improved with aggressive
   chest PT. CT revealed impacted portions of left lower lobe with distal
   collapse and bilateral tree-in-[**Male First Name (un) 2717**] opacities consistent with multifocal
   pneumonia. Ruled out cardiogenic causes from echo
   - Continue MIE TID and aggressive chest PT
   - Continue to wean FiO2 as tolerated (currently saturating well on 60%
   O2 face mask)
   - Abx: On vanc (day 1 [**2117-4-17**]; today is day 7) and cefepime (day 1
   [**4-20**]; today is day 4) for total 14 day course. Last day of antibiotics
   [**4-30**]; s/p 5-days levofloxacin
   - If possible, send sputum culture
   - Continue to taper IV steroids: 20mg IV q8h --> 20QD
   - Continue Nebs
   # Nutrition: Patient cannot take PO as she is aspiration risk.
   - Continue TPN, follow-up nutrition recommendations
   - Continue RISS
   - If continues to do well, may re-visit possibility of dobhoff or PEG
   tube.
   # Lone Afib: Currently in sinus.
   - continue asa
   - monitor on telemetry
   # Osteoporosis--stable
   - On calcium carbonate/vitamin D
   - Holding home alendronate in setting of esophageal dysmotility/chronic
   aspiration.
   # Dementia: continue home meds
   # Prophylaxis:
   - SQ heparin
   - Pneumoboots
   # Access: Picc line
   # CODE: DNR but not DNI, OK to intubate. Has DNR/DNI form.
   # CONTACT: [**First Name8 (NamePattern2) 3723**] [**Last Name (NamePattern1) 3255**] [**Telephone/Fax (1) 10690**] is sister and HCP; [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2728**] is
   friend and very involved
   # DISPO: potential call-out to floor

2117-04-23 10:07:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pt without complaints breathing comfortably but seems resigned this AM
   24 Hour Events:
   Down to 4L O2 this AM
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2117-4-22**] 12:20 PM
   Vancomycin - [**2117-4-22**] 08:12 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-4-23**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: No(t) Tachypnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-4-23**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**19**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.1
   HR: 76 (58 - 85) bpm
   BP: 116/67(78) {103/56(68) - 130/74(87)} mmHg
   RR: 21 (13 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52 kg (admission): 50.6 kg
   Height: 67 Inch
                  Total In:
                                                                    981 mL
                                                                    413 mL
   PO:
                  TF:
   IVF:
                                                                    689 mL
   Blood products:
   Total out:
                                                                  2,095 mL
                                                                  1,070 mL
   Urine:
                                                                  2,095 mL
                                                                  1,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,114 mL
                                                                   -657 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive but
   not engaged
   Labs / Radiology
   14.8 g/dL
   306 K/uL
   134 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.2 mEq/L
   23 mg/dL
   103 mEq/L
   136 mEq/L
   45.7 %
   11.9 K/uL
        [image002.jpg]
                             [**2117-4-16**]  06:14 AM
                             [**2117-4-17**]  02:49 AM
                             [**2117-4-18**]  06:40 AM
                             [**2117-4-19**]  05:18 AM
                             [**2117-4-20**]  03:56 AM
                             [**2117-4-20**]  07:58 PM
                             [**2117-4-20**]  08:13 PM
                             [**2117-4-21**]  04:23 AM
                             [**2117-4-22**]  03:52 AM
                             [**2117-4-23**]  02:04 AM
   WBC
   14.1
   12.9
   13.0
   9.6
   9.8
   10.9
   11.9
   Hct
   43.7
   44.0
   45.9
   45.8
   46.4
   44.1
   45.7
   Plt
   293
   302
   336
   [**Telephone/Fax (3) 12197**]
   306
   Cr
   0.7
   0.7
   0.6
   0.6
   0.7
   0.6
   0.6
   0.5
   TCO2
   27
   27
   Glucose
   143
   148
   127
   127
   133
   171
   98
   134
   Other labs: PT / PTT / INR:11.8/29.9/1.0, CK / CKMB /
   Troponin-T:20/4/<0.01, ALT / AST:28/29, Alk Phos / T Bili:98/0.8,
   Lactic Acid:1.3 mmol/L, Albumin:3.2 g/dL, LDH:169 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 HYPOXEMIA
 ALTERATION IN NUTRITION
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O PNEUMONIA, OTHER
   81yo F with h/o recurrent aspiration PNAs admitted with fever, cough,
   hypoxia.  Hypoxemia finally starting to improve with aggressive efforts
   at mucous clearance
   # Hypoxemic respiratory failure: Cont vanc/cefepime for 14 day course.
   Cough/assist, chest PT.  Taper steroids.
   Nutrition: TPN
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2117-4-22**] 05:00 PM 41.[**Telephone/Fax (5) 1228**] mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2117-4-21**] 10:42 PM
   PICC Line - [**2117-4-21**] 10:43 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent:
   ------ Protected Section ------
   Met with Ms. [**Known lastname **]
s friend [**Name (NI) **] (HCP) to update her on the improvement
   in oxygenation/oxygen requirement over last 48 hrs.  We rediscussed
   code status and Ms. [**Known lastname **] will remain DNR but not DNI (intubation okay
   for limited period).  Also discussed proceeding with consultation for
   PEG early next week if Ms. [**Known lastname **]
s oxygenation remains stable.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1776**] [**Name8 (MD) **], MD
   on:[**2117-4-23**] 16:42 ------